US20010041709A1
To a solution of (E)-3-methyl-5-(3,5-dichloro-phenyl)-pent-2-en-4-ynoic acid ethyl ester (130 mg, 0.46 mmol) in THF (0.5 mL) was added dropwise diisobutylaluminium hydride (1.0 M solution in toluene, 2.1 mL, 2.1 mmol) at −20° C. The reaction mixture was stirred for 2 hours at −20° C., whereafter saturated ammonium chloride was added. The mixture was treated with ethyl acetate and decalite and filtered. The filtrate was evaporated to give crude (E)-3-methyl-5-(3,5-dichloro-phenyl)-pent-2-en-4-yn-1-ol in 113 mg yield.

reactant | (E)-3-methyl-5-(3,5-dichloro-phenyl)-pent-2-en-4-ynoic acid ethyl ester | 0.46 mmol, 130 mg | C(C)OC(\C=C(\C#CC1=CC(=CC(=C1)Cl)Cl)/C)=O | C14H12Cl2O2
reactant | diisobutylaluminium hydride | 2.1 mmol, 1.0 M, 2.1 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (E)-3-methyl-5-(3,5-dichloro-phenyl)-pent-2-en-4-yn-1-ol | C\C(=C/CO)\C#CC1=CC(=CC(=C1)Cl)Cl | C12H10Cl2O
